US07125890B2
A solution of 5-amino-1-pentanol (28.03 g, 271.4 mmol) in N,N-dimethylformamide (200 mL) was added over a period of 45 minutes to a solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (60.01 g, 271.4 mmol) in N,N-dimethylformamide. The reaction was stirred overnight and then the N,N-dimethylformamide was removed by vacuum distillation. The residue was dissolved in ethyl acetate (500 mL), washed with water (4×75 mL), dried over magnesium sulfate and then concentrated under reduced pressure. The crude product was dissolved in hot ethyl acetate (400 mL). Hexane was added until a clear solution was obtained then the mixture was allowed to cool to ambient temperature. The resulting precipitate was isolated by filtration and washed with cold hexane to provide 26.87 g of 5-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]pentan-1-ol as a solid. An additional 4.41 g was isolated from the filtrate.

reactant | 5-amino-1-pentanol | 271.4 mmol, 28.03 g | NCCCCCO | C5H13NO
reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 271.4 mmol, 60.01 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 5-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]pentan-1-ol | 26.87 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCCCCO)C)C | C12H18ClN3O3
